US06331640B1
A suspension of 2-chloro-4-[[[[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-4-yl]methyl]amino]carbonyl]benzoic acid, methyl ester (87.8 mg, 0.206 mmol) in methanol (1 mL) was cooled to ˜0° C. and 1 M sodium hydroxide (0.206 mL, 0.206 mmol) was added. The cooling bath was removed and the reaction mixture was allowed to stir overnight. A further portion of sodium hydroxide (1 M; 0.2 mL, 0.2 mmol) was added and the mixture was stirred at room temperature for 7 h. The solvent was evaporated and the residue was dissolved in water (25 mL) and washed with ethyl acetate (2×10 mL). The aqueous layer was made acidic with 1 M HCl and extracted with ethyl acetate (2×20 mL). These extracts were combined, washed with brine (10 mL), dried (MgSO4), filtered, and concentrated to give 2-chloro-4-[[[[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-4-yl]methyl]amino]carbonyl]benzoic acid (77.3 mg, 91%) as a white solid.

reactant | 2-chloro-4-[[[[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-4-yl]methyl]amino]carbonyl]benzoic acid, methyl ester | 0.206 mmol, 87.8 mg | ClC1=C(C(=O)OC)C=CC(=C1)C(=O)NCC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C22H22ClN3O4
reactant | sodium hydroxide | 0.206 mmol, 1 M, 0.206 mL | [OH-].[Na+]
reactant | sodium hydroxide | 0.2 mmol, 1 M, 0.2 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 2-chloro-4-[[[[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-4-yl]methyl]amino]carbonyl]benzoic acid | 77.3 mg, 91% | ClC1=C(C(=O)O)C=CC(=C1)C(=O)NCC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C21H20ClN3O4
